US07238808B2
4-[7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-methyl-benzenesulfonamide
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (340 mg, 1.0 mmol) and 4-bromo-N-methyl-benzenesulfonamide (example B.27) (276 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (300 mg, 58%). MS (ISP) 508.3 [(M+H)+]; mp 202–203° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 340 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 4-bromo-N-methyl-benzenesulfonamide | 1.0 mmol, 276 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC | C7H8BrNO2S
product | 4-[7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-methyl-benzenesulfonamide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)S(=O)(=O)NC)C2=CC=C(C=C2)C(F)(F)F)F | C23H15F5N4O2S
